US07776869B2
1-methyl-4-(2-nitro-4-(trifluoromethyl)phenylsulfonyl)piperazine was dissolved in EtOH (20 mL) and the solution was purged with argon. Pd/C (365 mg, 0.34 mmol, 10%) was added to the solution, which was stirred for 3 days in an atmosphere of hydrogen gas. The mixture was again purged with argon, filtered through Celite and concentrated under reduced pressure to afford 2-(4-methylpiperazin-1-ylsulfonyl)-5-(trifluoromethyl)benzenamine. MS m/z=324 [M+H]+. Calc'd for C12H16F3N3O2S: 323.

reactant | 1-methyl-4-(2-nitro-4-(trifluoromethyl)phenylsulfonyl)piperazine | CN1CCN(CC1)S(=O)(=O)C1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C12H14F3N3O4S
reactant | hydrogen | [H][H] | H2
solvent | EtOH | 20 mL | CCO | C2H6O
catalyst | Pd/C | 0.34 mmol, 365 mg | [Pd] | Pd
product | 2-(4-methylpiperazin-1-ylsulfonyl)-5-(trifluoromethyl)benzenamine | CN1CCN(CC1)S(=O)(=O)C1=C(C=C(C=C1)C(F)(F)F)N | C12H16F3N3O2S
